US09376449B2
To a mixture of 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride (90.0 mg) and acetonitrile (5.00 mL) were added 2-fluoropropionic acid (0.0495 mL), diisopropylethylamine (0.272 mL), and 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (181 mg), followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=10:0 to 10:1). The obtained residue was solidified with a mixed solvent of hexane:ethyl acetate=2:1 to obtain 3-{2-[(2-fluoropropanoyl)amino]ethyl}-5-methoxy-N-methyl-1H-indole-2-carboxamide (70.0 mg) as a white solid.

reactant | 3-(2-aminoethyl)-5-methoxy-N-methyl-1H-indole-2-carboxamide hydrochloride | 90.0 mg | Cl.NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC
reactant | 2-fluoropropionic acid | 0.0495 mL | FC(C(=O)O)C | C3H5FO2
reactant | diisopropylethylamine | 0.272 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(7-aza-1H-benzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 181 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | acetonitrile | 5.00 mL | C(C)#N | C2H3N
product | 3-{2-[(2-fluoropropanoyl)amino]ethyl}-5-methoxy-N-methyl-1H-indole-2-carboxamide | 70.0 mg | FC(C(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)NC)C | C16H20FN3O3
